data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,8023,"C[C:1](=[CH2:2])[O-:3].C[N:4]=[CH:5][CH:6]=[CH2:7]|(3, 1);((1, 2), 7);((7, 6), 5);((5, 4), 4)"
train,pmechdb_split_0,0,7696,"CC1=CC=C2C(=C1)C1(O)C2CCC(C)CC[C:1]12[O+:2]([B-](F)(F)F)CC[O:3]2.CC[SiH](CC)CC|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1516,"C[S+:1](N)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,1187,"CCCC1CC(C)C([CH:1]=[N+:2](C)C2=CC=CC=C2)C1C(C)=C[O-:3].C[NH2+]C1=CC=CC=C1.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7468,"O=C1C2=C(C=CC=C2)C(=O)[N:1]1[H:2].[H:3][K:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,6223,"CC(C)C1CC(F)C2=N[N+](C3=C(F)C(F)=C(F)C(F)=C3F)=[C:1]([H:2])N21.CCOC(=O)C(=O)C=CC1=CC=CC=C1.CC[N:3](C(C)C)C(C)C.F[B-](F)(F)F.O=CC1=CC=C2C=CC=CC2=N1.O=CC1=CC=CO1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3783,"C[CH:1]([N:2](C)C)[I:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8990,"CC1=CC=C(CC(O)C2=CC=CC=C2)C=C1.N#[C:1][C:2](C1=CC=CC=C1)(C(O)(CC1=CC=CC=C1)C1=CC=CC=C1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1010,"CCC1(C(=O)C(C)(C)O[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CCCC2=C(C=CC=C2)[C:1]1([OH:2])[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2047,"C[C:1]([O][AlH2-:2][H:3])=[N:4]C|((2, 3), 1);((1, 4), 4)"
train,pmechdb_split_0,0,6250,"CO[C:1](C)=[OH+:2].C[OH:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6202,"[CH3][Mg-:1]([I])[P+:2](C)(Cl)Cl|((1, 2), 2)"
train,pmechdb_split_0,0,661,"CC1(C)C[O:1]1.[H:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1890,"CO.COC1=C(OC)C=C(C(=O)C(C)C(C)C(C2=CC(OC)=C(OC)C=C2)=[O:1])C=C1.O.[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7188,"CCN[C:1](=[O:2])[CH:3]=[CH2:4].C[C:5](=[CH2:6])[O-:7]|(7, 5);((5, 6), 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,6838,"S[CH+:1][O-:2]|(2, 1)"
train,pmechdb_split_0,0,5294,"CN1C(=O)C(N=[C:1]=[O:2])=C([N-:3]N=CC(=O)OC(C)(C)C)N(C)C1=O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8913,"CC1=C(CCO)SC(C(O)(C[CH:1]=[C:2](C)[O-:3])C(C)C)=[N+]1CC1=CC=CC=C1.CC[N+:4](CC)(CC)[H:5].[Cl-]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,113,"FC(F)(F)C1=CO[CH:1]=[CH:2]1.O=[N+:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5131,"CC(=O)CCC(NC1=CC=C(F)C=C1)(C1=CC=C(S(C)(=O)=O)C=C1)[OH:1].CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5144,"CC[C:1](OC(C)C)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6564,"CC(C)=CCC1(C)CCC=C(C)C1=[O+][Li-][N:1](C(C)C)C(C)C.CC(C)=CCC1(C)C[CH:2]([H:3])[CH:4]=[C:5](C)[C:6]1=[O+:7][Li-][N](C(C)C)C(C)C|(1, 3);((3, 2), 4);((4, 5), 6);((6, 7), 7)"
train,pmechdb_split_0,0,8352,"CC(=O)O.COC1=CC=C2C=CC3C=CC(O[I:1]4(OC(C)=O)([O:2]C(C)=O)OC(=O)C5=C4C=CC=C5)C4OC1=C2C34CCN(C)S(=O)(=O)C1=CC=C(C)C=C1|((1, 2), 2)"
train,pmechdb_split_0,0,7820,"[CH3:1][I:2].[SH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1347,"CCC(=O)[O:1][C:2](C)(OC(C)=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3766,"CS(=O)(=O)[O:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9374,"C1=CC=C([CH2:1][Br:2])C=C1.CCO[C:3](=[CH:4]C(C)=O)[O-:5]|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8865,"CC[Si](CC)(CC)[C:1](C)([H:2])[CH:3]=[N+:4]([Li-][N:5](C(C)C)C(C)C)C(C)(C)C|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4312,"C=CC(=O)[O:1][C:2](C)(C1=CC=CC=C1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5953,"CC1=C(C(=O)OCC2=CC=CC=C2)[CH:1]([H:2])[C:3](C2=CC=CC=C2)=[O+:4]1.O=S(=O)([O-])C(F)(F)F.[OH2:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1027,"CC1CC[CH:1]2C[C:2](=[O+:3][Zn][I])[CH:4]12.C[Si](C)(C)I.[I-:5]|(5, 1);((1, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,7183,"CC(=O)CCC(=O)C1=CC(C(=O)CCC(C)=O)=CC(C(=O)CCC(C)(N)[OH:1])=C1.CC(=O)[O:2][H:3].O=C[O-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6996,"CC(=O)[O:1][H:2].CN1CCC(N2CCN(C3=CC=C(C4=CC5=C(C=C4)N(S(=O)(=O)C4=CC=CC=C4)C4=C5C(Cl)=CC=N4)C=C3)CC2)([OH:3])CC1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7012,"CC1=C(CCO)S[C:1](=[C:2](O)C2=CC=CC=C2)[N:3]1C.CCO.CC[NH+](CC)CC.N#CC1=CC=C([CH:4]=[CH:5][C:6](C2=CC=CS2)=[O:7])C=C1.[I-]|(3, 1);((1, 2), 4);((4, 5), 6);((6, 7), 7)"
train,pmechdb_split_0,0,2555,"C1CCOC1.CO[C:1](C1=C(C(C2=CC=CC=C2)[O-:2])C=CC=C1)=[O:3].[Br][Mg][C]1=CC=CC=C1.[Mg+][Br]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5609,"C[S:1](C)(O)[I:2]|((1, 2), 2)"
train,pmechdb_split_0,0,2820,"CC1=CC=C(S(=O)(=O)OC(C)CCC[N:1](C)C)C=C1.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8768,"COC1(C)OC[CH:1]([H:2])[C:3]1=[OH+:4].O=S(=O)(O)[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1235,"C[Si](C)(C)C[CH:1]=[CH:2]COC[CH2+:3]|((1, 2), 3)"
train,pmechdb_split_0,0,4102,"C[N:1](C)[CH:2](N)[OH+:3]C.[Cl-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1849,"CC(C)(C)OC(=O)NCC(=O)[O-].CC(C)NC(=O)NC(C)C.CCC1([OH:1])C(=O)OCC2=C1C=C1C3=C(C=C4C=CC=CC4=N3)CN1C2=O.CN(C)C1=CC=NC=C1.CN(C)C1=CC=[N+]([C:2](CNC(=O)OC(C)(C)C)=[O:3])C=C1|(1, 2);((2, 3), 3)"
